US08865712B2
c) 3-Amino-5-(2-methoxy-ethyl)-5H-pyrrolo[2,3-b]pyrazine-2-carboxylic acid
To a solution of 3-amino-5-(2-methoxy-ethylamino)-6-trimethylsilanylethynyl-pyrazine-2-carboxylic acid methyl ester (487 mg, 1.51 mmol) in THF (7.6 ml) was added a suspension of KOtBu (356 mg, 3.17 mmol) in THF (7.6 ml) and the reaction mixture was stirred at r.t. for 2 h. At 0° C. solid NH4Cl (848 mg) was added and the mixture stirred for 30 min. After addition of half-saturated NH4Cl solution (15 ml) the mixture was extracted with EtOAc (2×15 ml), the pH of the aq. phase was adjusted the pH to 4 by addition of 1N HCl. The aq. phase was extracted with DCM/EtOH 9:1 (2×100 ml), the combined organic layers were dried with Na2SO4 and evaporated. The residue was filtered through a plug of silica gel (DCM/EtOH 90:10) to provide the title compound as brown powder. This material was used for coupling reactions without further purification.

reactant | 3-amino-5-(2-methoxy-ethylamino)-6-trimethylsilanylethynyl-pyrazine-2-carboxylic acid methyl ester | 1.51 mmol, 487 mg | COC(=O)C1=NC(=C(N=C1N)NCCOC)C#C[Si](C)(C)C | C14H22N4O3Si
reactant | KOtBu | 3.17 mmol, 356 mg | CC(C)(C)[O-].[K+]
reactant | NH4Cl | 848 mg | [NH4+].[Cl-]
reactant | NH4Cl | 15 ml | [NH4+].[Cl-]
solvent | THF | 7.6 ml | C1CCOC1 | C4H8O
solvent | THF | 7.6 ml | C1CCOC1 | C4H8O
product | 3-Amino-5-(2-methoxy-ethyl)-5H-pyrrolo[2,3-b]pyrazine-2-carboxylic acid | NC1=C(N=C2C(=N1)N(C=C2)CCOC)C(=O)O | C10H12N4O3
